US08106070B2
1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2-(4-pyridin-2-ylphenyl)ethanol
1.5 N Hydrochloric acid (1 mL) was added to an ambient temperature solution of 4-(2,2-dimethylpropyl)-2-[1-hydroxy-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide (7 mg, 0.02 mmol) in tetrahydrofuran (1 mL). After heating in a sealed tube at 70° C. until no further reaction (LCMS), the reaction mixture was cooled to 0° C., quenched with 10% aqueous sodium hydroxide and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Preparative plate chromatography eluting with 15% methanol/ethyl acetate afforded the title compound. High pressure liquid chromatography (Chiralcel OD column) eluting with 20% isopropanol/heptane afforded the two pure enantiomers. (M+H) found: 336.

reactant | Hydrochloric acid | 1.5 N, 1 mL | Cl | ClH
reactant | 4-(2,2-dimethylpropyl)-2-[1-hydroxy-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.02 mmol, 7 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=CC=C1)O)(C)C | C23H30N4O3S
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2-(4-pyridin-2-ylphenyl)ethanol | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)C1=NC=CC=C1)O)(C)C | C21H25N3O
